US08735379B2
To a mixture of tert-butyl 2-(methylamino)ethylcarbamate (0.348 g, 2 mmol), 2-hydroxybenzoyl chloride (0.276 g, 2 mmol) and imidazole (0.136 g, 2 mmol) in ethyl acetate (8 mL) at 0° C. was slowly added a solution of DCC (0.412 g, 2 mmol) in ethyl acetate (2 mL). The mixture was stirred (RT, 16 h), filtered and concentrated under reduced pressure. The crude material was purified by chromatography on silica gel, eluting with ethyl acetate/petroleum ether (20-50%) to afford tert-butyl 2-(2-hydroxy-N-methylbenzamido)ethylcarbamate (0.2 g, 34%) as a colorless oil. 1HNMR (CDCl3): δ7.5 (m, 2H, CH), 7.0 (d, 1H, CH), 6.8 (d, 1H, CH), 3.7 (m, 2H, CH2), 3.48 (m, 2H, CH2), 3.2 (m, 3H, CH3), 1.5 (s, 9H, CH3).

reactant | tert-butyl 2-(methylamino)ethylcarbamate | 2 mmol, 0.348 g | CNCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | 2-hydroxybenzoyl chloride | 2 mmol, 0.276 g | OC1=C(C(=O)Cl)C=CC=C1 | C7H5ClO2
reactant | imidazole | 2 mmol, 0.136 g | N1C=NC=C1 | C3H4N2
reactant | DCC | 2 mmol, 0.412 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(2-hydroxy-N-methylbenzamido)ethylcarbamate | 0.2 g, 34% | OC1=C(C(=O)N(C)CCNC(OC(C)(C)C)=O)C=CC=C1 | C15H22N2O4
